US08039472B2
A solution of [(S)-5-benzyloxycarbonylamino-1-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-pentyl]-carbamic acid tert-butyl ester (0.63 g, 1.27 mmol) in DCM (5.1 ml) and EtOH (5.1 ml) is treated with hydrazine hydrate (0.318 g, 6.35 mmol) and the reaction mixture is stirred at room temperature overnight. A white precipitate forms which is removed by filtration and washed with DCM (3×10 ml). The filtrate is concentrated in vacuo and redissolved in DCM (15 ml) and MeOH (2 ml). Undissolved material is removed by filtration and the filtrate is concentrated in vacuo. The resulting oily yellow solid is purified by chromatography on silica eluting with 10-50% MeOH in DCM (1% TEA) to afford ((S)-1-Aminomethyl-5-benzyloxycarbonylamino-pentyl)-carbamic acid tert-butyl ester as a clear oil; [M+H]+ 366

reactant | [(S)-5-benzyloxycarbonylamino-1-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-pentyl]-carbamic acid tert-butyl ester | 1.27 mmol, 0.63 g | C(C)(C)(C)OC(N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)CN1C(C2=CC=CC=C2C1=O)=O)=O | C27H33N3O6
reactant | hydrazine hydrate | 6.35 mmol, 0.318 g | O.NN
solvent | DCM | 5.1 ml | C(Cl)Cl | CH2Cl2
solvent | EtOH | 5.1 ml | CCO | C2H6O
product | ((S)-1-Aminomethyl-5-benzyloxycarbonylamino-pentyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)CN)=O | C19H31N3O4
